US07531537B2
Sixty % sodium hydride in oil (9.60 g) is suspended in N,N-dimethyacetamide (500 ml), to this mixture is added methyl trans-4-(4-chlorobutyrylamino)-cyclohexanecarboxylate (52.32 g) obtained in Reference Example 113(2) gradually under ice-cooling. The reaction solution is warmed to room temperature, stirred for 24 hours, and thereto are poured saturated aqueous ammonium chloride solution and ice-water, and the mixture is extracted with chloroform. The organic layer is washed with saturated brine, dried over magnesium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent: ethyl acetate) and the obtained solid is suspended in n-hexane-diisopropyl ether. The resulting crystals are collected by filtration and dried to give methyl trans-4-(2-oxo-pyrrolidin-1-yl)cyclohexanecarboxylate (39.20 g).

reactant | sodium hydride | [H-].[Na+]
reactant | methyl trans-4-(4-chlorobutyrylamino)-cyclohexanecarboxylate | 52.32 g | ClCCCC(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C12H20ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethyacetamide | 500 ml | CN(C(C)=O)C | C4H9NO
product | methyl trans-4-(2-oxo-pyrrolidin-1-yl)cyclohexanecarboxylate | 39.20 g | O=C1N(CCC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C12H19NO3
